US04661477
A mixture of 13.81 g. (0.1 moles) of diethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 13.12 g. (0.1 moles) of 3-butyloxypropyl amine and 30 ml. of ethanol as described in Example 1. 23.1 g. of 3-butyloxypropyl-ammoniumethyl phosphonate are obtained. Yield: 95.7%. nD30 =1.4438

reactant | diethyl phosphite | 0.1 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | 3-butyloxypropyl amine | 0.1 moles | C(CCC)OCCCN | C7H17NO
solvent | ethanol | C(C)O | C2H6O
product | 3-butyloxypropyl-ammoniumethyl phosphonate | Yield: 95.7% | C(C)P([O-])([O-])=O.C(CCC)OCCC[NH3+].C(CCC)OCCC[NH3+] | InChI=1S/2C7H17NO.C2H7O3P/c2*1-2-3-6-9-7-4-5-8;1-2-6(3,4)5/h2*2-8H2,1H3;2H2,1H3,(H2,3,4,5)
